US04344954
2,3,5,6,7,8-Hexahydro-2-phenyl-3-(2-thienyl)thiazolo-[3,2-a][1,3]diazepin-3-ol methanesulfonate
A mixture of 9.2 ml. of thiophene-2-carboxyaldehyde, 8 g. of potassium cyanide and 10.1 ml. of benzaldehyde in 100 ml. of 65% ethanol is reacted as described in Example 20, giving 6.2 g. of 2-thienyl-α-hydroxybenzyl ketone. A 4.36 g. portion of this ketone is reacted with methanesulfonyl chloride as described in Example 20, giving 3.2 g. of the methanesulfonate ester. A 2.64 g. portion of this ester and 1.30 g. of hexahydro-2H-1,3-diazepine-2-thione in 100 ml. of acetone are allowed to stand 48 hours, the solid is collected, washed with ether and dried in vacuo, giving 2.8 g. of the desired product, m.p. 149°-151° C.

reactant | potassium cyanide | [C-]#N.[K+]
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-thienyl-α-hydroxybenzyl ketone | S1C(=CC=C1)C(C1=CC=CC=C1)(O)C(=O)C(C1=CC=CC=C1)(C=1SC=CC1)O | C23H18O3S2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | hexahydro-2H-1,3-diazepine-2-thione | N1C(NCCCC1)=S | C5H10N2S
solvent | acetone | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 2,3,5,6,7,8-Hexahydro-2-phenyl-3-(2-thienyl)thiazolo-[3,2-a][1,3]diazepin-3-ol methanesulfonate | CS(=O)(=O)OC1(C(SC=2N1CCCCN2)C2=CC=CC=C2)C=2SC=CC2 | C18H20N2O3S3
